US07196090B2
3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as described in Example 5 using 0.5 g (1.21 mmol) of 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.33 g (3.64 mmol) of serinol. The crude product was purified using medium-pressure chromatography eluting with 20:1 dichloromethane/methanol to give 0.51 g (96%) of the title compound: mp 168° C.–172° C. MS (APCI) (m+1)/z 440.1

reactant | 3-(2,6-difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.21 mmol, 0.5 g | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H18F2N4O4S
reactant | serinol | 3.64 mmol, 0.33 g | NC(CO)CO | C3H9NO2
product | 3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-1-ethyl-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.51 g, 96% | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)NC(CO)CO)CC)=O | C19H23F2N5O5
